US07456156B2
Step 2. Synthesis of 4-(2′-bromoacetyl)-3-fluorophenylboronic acid (2)
An oven-dried, 500-milliliter, 3-necked, round-bottomed flask was charged with 5 grams (27.4 millimole) of 4-acetyl-3-fluorophenyl boronic acid and 25 milliliters of methanol under a nitrogen atmosphere. The solution was cooled to 0° C. using an ice bath. To this solution was added 0.2 milliliters (0.55 equivalents) of glacial acetic acid. In a 100 milliliters Erlenmeyer flask was taken 1.27 milliliters (3.95 grams, 24 millimole, 0.9 equivalents) of elemental bromine dissolved in 4 milliliters of cold methanol. The bromine solution was added dropwise to the above solution at 0° C. using an addition funnel. With the addition of Br2, the solution slowly turned light orange and finally to dark orange when addition was complete. After about 5-6 hours, the progress of the reaction was monitored by NMR. Depending on the progress of reaction, another 10-20 mole % of bromine was added after cooling the solution to 0° C. Total reaction time was approximately 24 hours.

reactant | 4-acetyl-3-fluorophenyl boronic acid | 27.4 millimole, 5 grams | C(C)(=O)C1=C(C=C(C=C1)B(O)O)F | C8H8BFO3
reactant | acetic acid | 0.2 milliliters, 0.55 equivalents | C(C)(=O)O | C2H4O2
reactant | bromine | 24 millimole, 1.27 milliliters, 3.95 grams, 0.9 equivalents | BrBr | Br2
solvent | methanol | 4 milliliters | CO | CH4O
solvent | methanol | 25 milliliters | CO | CH4O
product | 4-(2′-bromoacetyl)-3-fluorophenylboronic acid | BrCC(=O)C1=C(C=C(C=C1)B(O)O)F | C8H7BBrFO3
